US04187216
8.7 g (0.022 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline anilide were dissolved in 40 ml of 4-N hydrogen bromide in acetic acid and the solution was stirred at room temperature for 1 hour. Upon addition of 300 ml of dry ether a white solid separated. It was allowed to settle. The solution was decanted off and the solid washed with two 150 ml portions of ether, dried on a rotary evaporator and dissolved in 120 ml of dry pyridine. 5.73 ml (0.044 mol) of propionic anhydride were added and the mixture was stirred at room temperature for 1 hour and then evaporated. The residue was dissolved in 250 ml of chloroform and the solution washed with 100 ml of 1-N hydrochloric acid, 100 ml of water and 100 ml of 5% sodium bicarbonate solution, dried over magnesium sulphate and evaporated to an oil. This oil crystallised from ethyl acetate/ether to yield 3.5 g of N-propionyl-L-alanyl-L-proline anilide. A second crop (1.5 g) was obtained from the mother liquor on allowing same to stand. The two crops were combined and chromatographed on 200 g of silica gel. 2% methanol/chloroform was used for the elution and 15 ml fractions were collected. Fractions 35-90 were combined and evaporated. The residue was recrystallised from ethyl acetate/petroleum ether to give 3.24 g (46%) of N-propionyl-L-alanyl-L-proline anilide of melting point 156°-157° C.; [α]D20 =-188.7° (c=1.034% in methanol).

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline anilide | 0.022 mol, 8.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | C22H25N3O4
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | propionic anhydride | 0.044 mol, 5.73 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-propionyl-L-alanyl-L-proline anilide | 3.5 g | C(CC)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | C17H23N3O3
